US06355680B1
In the manner described in example 3, 2-bromophenylacetic acid is condensed with m-anisidine to yield 2-[(3-methoxyphenyl)amino]phenylacetic acid.

reactant | 2-bromophenylacetic acid | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | m-anisidine | COC1=CC(=CC=C1)N | C7H9NO
product | 2-[(3-methoxyphenyl)amino]phenylacetic acid | COC=1C=C(C=CC1)NC1=C(C=CC=C1)CC(=O)O | C15H15NO3
